US05763460
(a) N-benzyl-4-hydroxy-4-(2,3-dihydrobenzo[1,4]dioxin-5-yl)piperidine
A toluene solution (10 ml) of 5-bromo-2,3-dihydrobenzo[1,4]dioxin (10 mmol) was stirred under argon at 0° C. and was treated with the dropwise addition of n-butyllithium (10 mmol) over ten minutes. After stirring for a further twenty minutes a solution of 1-benzyl-4-piperidone in toluene (10 mmol in 10 ml) was added dropwise over five minutes. Stirring was continued for two hours, at which point water (100 ml) was added and the product extracted into ethyl acetate (4×50 ml). The combined organics were washed with water (2×50 ml), brine (75 ml) and dried (MgSO4). Filtration and concentration in vacuo gave an oil.

reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
reactant | 5-bromo-2,3-dihydrobenzo[1,4]dioxin | 10 mmol | BrC1=CC=CC=2OCCOC21 | C8H7BrO2
reactant | n-butyllithium | 10 mmol | C(CCC)[Li]
reactant | 1-benzyl-4-piperidone | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | toluene | 10 mmol, 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 ml | O | H2O
product | N-benzyl-4-hydroxy-4-(2,3-dihydrobenzo[1,4]dioxin-5-yl)piperidine | C(C1=CC=CC=C1)N1CCC(CC1)(C1=CC=CC=2OCCOC21)O | C20H23NO3
